US05484677
In a flask equipped with a stirring blade and a tube for nitrogen introduction were charged 1,500 parts of ion-exchanged water and heated to 60° C. Twenty parts of diethylamino methacrylate and 60 parts of methyl methacrylate were added thereto while stirring. To the mixture were further added 20 parts 2,2'-azobis(2-amidinopropane) dihydrochloride ("V-50" produced by Wako Pure Chemical Ind. Ltd.) and 10 parts of 2,2'-azobis(2-methyl-N-(1,1'-bis(hydroxymethyl)-2-hydroxyethyl)propionamide) ("V-080" produced by Wako Pure Chemical Ind. Ltd.), followed by heating to 65° C., at which the mixture was subjected to soap-free polymerization for 24 hours. After completion of the reaction, the fine particles thus produced were washed with 5000 parts of ion-exchanged water by means of a centrifugal separator to obtain fine particles of a diethylaminoethyl methacrylate/methyl methacrylate copolymer having an amidino hydrochloride group and a hydroxyl group on the surface thereof and having an average particle size of 0.5 μm.

reactant | diethylamino methacrylate | C(C(=C)C)(=O)ON(CC)CC | C8H15NO2
reactant | methyl methacrylate | C(C(=C)C)(=O)OC | C5H8O2
reactant | 2,2'-azobis(2-amidinopropane) dihydrochloride | Cl.Cl.N(=NC(C)(C)C(N)=N)C(C)(C)C(N)=N
solvent | water | O | H2O
product | diethylaminoethyl methacrylate methyl methacrylate | C(C(=C)C)(=O)OCCN(CC)CC.C(C(=C)C)(=O)OC | InChI=1S/C10H19NO2.C5H8O2/c1-5-11(6-2)7-8-13-10(12)9(3)4;1-4(2)5(6)7-3/h3,5-8H2,1-2,4H3;1H2,2-3H3
